US07196104B2
Preparation BZ: [6-(2,6-Dimethyl-piperidin-1-ylmethyl)-pyridin-2-yl]-carbamic acid tert-butyl ester
2,6-Dimethylpiperidine (0.24 mL, 1.74 mmol) was added to a solution of (6-bromomethyl-pyridin-2-yl)-carbamic acid tert-butyl ester (250 mg, 0.87 mmol) in DMF (10 mL) followed by heating at 50° C. and the resulting mixture was stirred for 18 h. The resulting mixture was partitioned between water (10 mL) and CHCl3 (20 mL). The organic layer was washed with H3O, brine, and dried over MgSO4. Concentration in vacuo gave a pale yellow solid. MS m/z: 320.3 (M+H). Calc'd. for C18H29N3O2-319.23.

reactant | 2,6-Dimethylpiperidine | 1.74 mmol, 0.24 mL | CC1NC(CCC1)C | C7H15N
reactant | (6-bromomethyl-pyridin-2-yl)-carbamic acid tert-butyl ester | 0.87 mmol, 250 mg | C(C)(C)(C)OC(NC1=NC(=CC=C1)CBr)=O | C11H15BrN2O2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | [6-(2,6-Dimethyl-piperidin-1-ylmethyl)-pyridin-2-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=NC(=CC=C1)CN1C(CCCC1C)C)=O | C18H29N3O2
